US05389640
1-(2-Methylpropyl)-2-morpholinomethyl-1H-imidazo[4,5-c]quinolin-4-amine
2-Chloromethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine hydrochloride (Example 10, prepared from 2.0 g of the corresponding alcohol) was added to morpholine (5 mL). The mixture was refluxed for 4 hr. The resulting solution was cooled to room temperature. A solid precipitated. The solid was filtered from the mixture and slurried in aqueous sodium bicarbonate solution. The product was filtered from the mixture, washed with water, and dried to yield 1.7 g (68.0%) of solid, which was recrystallized from ethanol to give a pure product m.p. 228°-234° C.

reactant | 2-Chloromethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine hydrochloride | Cl.ClCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC(C)C
reactant | morpholine | 5 mL | N1CCOCC1 | C4H9NO
product | 1-(2-Methylpropyl)-2-morpholinomethyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.7 g, 68.0% | CC(CN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CN2CCOCC2)C | C19H25N5O
